US07129235B2
1-benzyl-2-(methoxycarbonyl)-5-(methylthio)-3,4-dihydro-2H-pyrrolium iodide
Methyl 1-benzyl-5-thioxo-2-pyrrolidinecarboxylate (16.5 g, 66.2 mmol) in iodomethane (70 mL) was stirred overnight at room temperature. The mixture was concentrated under reduced pressure to provide the title compound which was used in the next step without further purification. 1H NMR (CDCl3) δ 2.24 (m, 1H), 3.04 (s, 3H), 3.16 (m, 1H), 3.25 (m, 1H), 3.63 (s, 3H), 4.29 (dd, 1H), 4.72 (d, 1H), 4.89 (dd, 1H), 5.14 (d, 1H), 7.43 (m, 3H), 7.51 (m, 2H).

reactant | Methyl 1-benzyl-5-thioxo-2-pyrrolidinecarboxylate | 66.2 mmol, 16.5 g | C(C1=CC=CC=C1)N1C(CCC1=S)C(=O)OC | C13H15NO2S
reactant | iodomethane | 70 mL | IC | CH3I
product | 1-benzyl-2-(methoxycarbonyl)-5-(methylthio)-3,4-dihydro-2H-pyrrolium iodide | [I-].C(C1=CC=CC=C1)[N+]=1C(CCC1SC)C(=O)OC | InChI=1S/C14H18NO2S.HI/c1-17-14(16)12-8-9-13(18-2)15(12)10-11-6-4-3-5-7-11;/h3-7,12H,8-10H2,1-2H3;1H/q+1;/p-1
